US06245763B1
6. 3-(3-Methylphenylsulfonyl)amino-6-isopropyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone
3-Amino-6-isopropyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone (assumed to be 3.37 mmol), as prepared in the preceding step, and N-methylmorpholine (1.0 mL, 9.1 mmol) were dissolved in methylene chloride (20 mL) and cooled to 0° C. A solution of m-toluenesulfonyl chloride (0.67 g, 3.5 mmol) in methylene chloride (5 mL) was added and the reaction stirred at ambient temperature for 16 hours. After evaporation in vacuo, the crude product was dissolved in methylene chloride, washed with 10% aqueous citric acid, saturated NaHCO3, and brine, dried over MgSO4, and filtered. The evaporated filtrate gave the title compound (1.24 g, 88%) as a tan solid. 1H NMR (300 MHz, CDCl3) δ7.65 (m, 2H), 7.58 (br s, 1H), 7.46 (d, 1H, J=7.8 Hz), 7.33 (m, 2H), 6.08 (d, 1H, J=7.9 Hz), 4.69 (s, 2H), 2.67 (m, 1H), 2.38 (s, 3H), 1.41 (s, 9H), 1.22 (s, 3H), 1.19 (s, 3H).

reactant | 3-Amino-6-isopropyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone | 3.37 mmol | NC=1C(N(C(=CC1)C(C)C)CC(=O)OC(C)(C)C)=O | C14H22N2O3
reactant | N-methylmorpholine | 9.1 mmol, 1.0 mL | CN1CCOCC1 | C5H11NO
reactant | m-toluenesulfonyl chloride | 3.5 mmol, 0.67 g | C1(=CC(=CC=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-Methylphenylsulfonyl)amino-6-isopropyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone | 1.24 g, 88% | CC=1C=C(C=CC1)S(=O)(=O)NC=1C(N(C(=CC1)C(C)C)CC(=O)OC(C)(C)C)=O | C21H28N2O5S
